US06784192B2
2-(2-Methoxy-3-pyridyl)acetic acid
2.2 g of (2-methoxy-3-pyridyl)methyl cyanide, 35 ml of a 1N aqueous sodium hydroxide and 35 ml of methanol were stirred under heating at 100° C. for 1.5 hours. The mixture was cooled to room temperature, and then, 35 ml of a 5N aqueous hydrochloric acid was added thereto, and the solvent was evaporated. Ethanol was added to the residue and a solid was filtered off. Ethanol was evaporated, and ethanol was added again to the residue and a solid was filtered off. Ethanol was evaporated, to give 2.4 g of white crystals.

reactant | (2-methoxy-3-pyridyl)methyl cyanide | 2.2 g | COC1=NC=CC=C1CC#N | C8H8N2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | methanol | 35 ml | CO | CH4O
product | 2-(2-Methoxy-3-pyridyl)acetic acid | 2.4 g | COC1=NC=CC=C1CC(=O)O | C8H9NO3
